US05776971
Preparation of N-(t-Butoxycarbonyl)-N-benzyl-L-phenylalaninol
N-benzyl-L-phenylalaninol (2.9 g, 12 mmoles) was dissolved in 3 mL of triethylamine and 27 mL of methanol and 5.25 g (24.1 mmoles) of di-tert-butyl dicarbonate was added. The mixture was warmed to 60° C. for 35 minutes and concentrated under reduced pressure. The residue was dissolved in 150 mL of ethyl acetate and washed twice with 10 mL of cold (0°-5° C.), dilute hydrochloric acid (pH 2.5 to 3), 15 mL of water, 10 mL of brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product oil was purified by silica gel chromatography (ethyl acetate: hexane, 12:3 as eluting solvent) to give 3.98 g (97% yield) of colorless oil.

reactant | N-benzyl-L-phenylalaninol | 12 mmoles, 2.9 g | C(C1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)CO | C16H19NO
reactant | methanol | 27 mL | CO | CH4O
reactant | di-tert-butyl dicarbonate | 24.1 mmoles, 5.25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
product | N-(t-Butoxycarbonyl)-N-benzyl-L-phenylalaninol | 3.98 g, 97% yield | C(C)(C)(C)OC(=O)N([C@@H](CC1=CC=CC=C1)CO)CC1=CC=CC=C1 | C21H27NO3
